US06884821B1
7.4 g of 2-methoxy-3-hydroxymethylpyridine was dissolved in 100 ml toluene, and 13.8 ml diphenyl phosphoryl azide and 9.5 ml diazabicyclo[5.4.0]undecene were added, and the mixture was stirred overnight at room temperature. Water was added to the reaction product which was then extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 9.5 g of [(2-methoxy-3-pyridyl)methyl]azide.

reactant | 2-methoxy-3-hydroxymethylpyridine | 7.4 g | COC1=NC=CC=C1CO | C7H9NO2
reactant | diphenyl phosphoryl azide | 13.8 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | diazabicyclo[5.4.0]undecene | 9.5 ml | C12=NNCCCC2CCCC1 | C9H16N2
reactant | Water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | [(2-methoxy-3-pyridyl)methyl]azide | 9.5 g | COC1=NC=CC=C1CN=[N+]=[N-] | C7H8N4O
